US08071776B2
3-Amino-5-chloro-6-hydroxy-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide
To a solution of 3-amino-5-chloro-6-methoxy-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide (5.0 g, 16.04 mmol) in DMF (45 ml) is added solid 95% sodium thiomethoxide (1.30 g, 17.64 mmol). The reaction vessel is sealed and heated at 100° C. for 5 hours. The reaction is cooled to room temperature and quenched by the addition of water (75 ml). The mixture is acidified to pH2 by the addition of 5N HCl. Gradually, a thick, white precipitate is formed, which is stirred at 0° C. for 10 minutes, then collected by filtration. The solid is dried in the vacuum oven overnight at 60° C. to afford the title compound as a white solid (4.13 g, 86%). Mass (m/z): 298.0 (M++1).

reactant | 3-amino-5-chloro-6-methoxy-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 16.04 mmol, 5.0 g | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)OC)S1)N | C13H14ClN3O2S
reactant | sodium thiomethoxide | 17.64 mmol, 1.30 g | C[S-].[Na+]
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
product | 3-Amino-5-chloro-6-hydroxy-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 4.13 g, 86% | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)O)S1)N | C12H12ClN3O2S
